US09169254B2
1-Oxa-6-aza-spiro[2.5]octane-6-carboxylic acid tert-butyl ester (144 mg, 679 μmol), triethylamine (1.10 mL, 6.79 mmol) and triethylamine trihydrofluoride (2.85 mL, 20.4 mmol) were mixed in a sealed test tube. This mixture was stirred at 120° C. for 6.5 hours. The reaction mixture was cooled, and then quenched with a 2 N aqueous NaOH solution and extracted with ethyl acetate three times. The organic layers were combined, washed with saturated brine, dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (hexane-AcOEt) to give 4-fluoro-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester (24.9 mg, 16%).

reactant | 1-Oxa-6-aza-spiro[2.5]octane-6-carboxylic acid tert-butyl ester | 679 μmol, 144 mg | C(C)(C)(C)OC(=O)N1CCC2(CO2)CC1 | C11H19NO3
reactant | triethylamine | 6.79 mmol, 1.10 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine trihydrofluoride | 20.4 mmol, 2.85 mL | F.F.F.C(C)N(CC)CC
product | 4-fluoro-4-hydroxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 24.9 mg, 16% | C(C)(C)(C)OC(=O)N1CCC(CC1)(CO)F | C11H20FNO3
